US05113010
To a 2 L 3-neck round bottom flask fitted with a glass stopper, rubber septum, and reflux condenser with a nitrogen inlet tube, was added 64.90 g (283 mmol) methyl 4-bromomethylbenzoate, 81.74 g (311 mmol) triphenylphosphine, and 744 mL toluene. The solution was heated at 80° C. for 5h. After cooling to room temperature, reaction vessel was placed in an ice bath. The resulting precipitate was filtered, washed with toluene, and dried in a vacuum oven to afford 126.35 g (89% (4-carbomethoxy) benzyltriphenylphosphonium bromide) as a white solid, mp.=248°-250° C. (reported in V. Sankaran and C. S. Marvel, J. Polym. Sci, Poly. Chem. Ed , 17, 3949 (1979) as 258°-260° C.): 1H NMR (CDCl3, 200 MHz) δ 3.86 (s,3H), 5.70 (d,J=15.3 Hz, 2H), 7.24 (m,4H), 7.71 (m, 15 H).

reactant | methyl 4-bromomethylbenzoate | 283 mmol, 64.90 g | BrCC1=CC=C(C(=O)OC)C=C1 | C9H9BrO2
reactant | triphenylphosphine | 311 mmol, 81.74 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | 744 mL | C1(=CC=CC=C1)C | C7H8
product | (4-carbomethoxy) benzyltriphenylphosphonium bromide | 89% | [Br-].C(=O)(OC)C1=CC=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | InChI=1S/C27H24O2P.BrH/c1-29-27(28)23-19-17-22(18-20-23)21-30(24-11-5-2-6-12-24,25-13-7-3-8-14-25)26-15-9-4-10-16-26;/h2-20H,21H2,1H3;1H/q+1;/p-1
